US06984744B2
In a 250 ml round bottom 2-neck flask charged with a magnetic stirring bar and 60 ml freshly distilled toluene, 8.5 g 1-phenyl-2-methylenephospholane-1-oxide (0.04 mol) was dissolved and 11 g of PhSiH3 was added. The flask was flushed with argon and the reaction mixture heated to 60° C. for 2 days. Then the solvent was evaporated and the residue purified by flash chromatography (hexane followed by hexane/EtOAc 15:1) to yield 7.4 g (95%) of 1-phenyl-2-methylenephospholane as a colorless oil, 1H NMR (200 MHz) δ: 1.55-2.10 (m, 4H), 2.20-2.65 (m, 2H), 5.51 (dd, 1H, J=1.6, J=11.0), 5.76 (dd, 1H, J=1.5, J=28.7), 7.05-7.50 (m, 5H), 31 P NMR (200 MHz) δ: −12.6.

reactant | 1-phenyl-2-methylenephospholane-1-oxide | 0.04 mol, 8.5 g | C1(=CC=CC=C1)P1(C(CCC1)=C)=O | C11H13OP
reactant | PhSiH3 | 11 g | C1(=CC=CC=C1)[SiH3] | C6H8Si
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-2-methylenephospholane | 7.4 g, 95% | C1(=CC=CC=C1)P1C(CCC1)=C | C11H13P
